Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[OH:11][CH2:12][CH2:13][CH:14]1[CH2:15][O:16][CH2:17]1>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:11][CH2:12][CH2:13][CH:14]1[CH2:15][O:16][CH2:17]1,[Cl:101][S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])=[O:10].[OH:11][CH2:12][CH2:13][CH:14]1[CH2:15][O:16][CH2:17]1.[H-:301].[Na+]>>[S:1]([c:2]1[cH:3][cH:4][c:5]([CH3:6])[cH:7][cH:8]1)(=[O:9])(=[O:10])[O:11][CH2:12][CH2:13][CH:14]1[CH2:15][O:16][CH2:17]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 9], 9), (9, [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[n:4][c:5]([NH:6][CH2:7][C@@H:8]([NH2:9])[CH2:10][c:11]2[cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19][cH:20]2)[s:21][c:22]1-[c:23]1[cH:24][cH:25][c:26]2[cH:27][n:28][c:29]([F:30])[cH:31][c:32]2[cH:33]1>>[CH2:1]([OH:2])[c:3]1[n:4][c:5]([NH:6][CH2:7][C@@H:8]([NH2:9])[CH2:10][c:11]2[cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19][cH:20]2)[s:21][c:22]1-[c:23]1[cH:24][cH:25][c:26]2[cH:27][n:28][c:29]([F:30])[cH:31][c:32]2[cH:33]1,C[O:101][C:1](=[O:2])[c:3]1[n:4][c:5]([NH:6][CH2:7][C@@H:8]([NH2:9])[CH2:10][c:11]2[cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19][cH:20]2)[s:21][c:22]1-[c:23]1[cH:24][cH:25][c:26]2[cH:27][n:28][c:29]([F:30])[cH:31][c:32]2[cH:33]1.[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([OH:2])[c:3]1[n:4][c:5]([NH:6][CH2:7][C@@H:8]([NH2:9])[CH2:10][c:11]2[cH:12][cH:13][c:14]([C:15]([F:16])([F:17])[F:18])[cH:19][cH:20]2)[s:21][c:22]1-[c:23]1[cH:24][cH:25][c:26]2[cH:27][n:28][c:29]([F:30])[cH:31][c:32]2[cH:33]1,ester_reduction,"[([301, 301.1], 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 2], 2), (2, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[C:3]1([c:4]2[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]2)[CH2:11][CH2:12][CH2:13]1.[CH3:14][CH2:15][O:16][C:17](=[O:18])[C@@H:19]1[CH2:20][CH2:21][CH2:22][NH:23][CH2:24]1>>[C:1](=[O:2])([C:3]1([c:4]2[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]2)[CH2:11][CH2:12][CH2:13]1)[N:23]1[CH2:22][CH2:21][CH2:20][C@@H:19]([C:17]([O:16][CH2:15][CH3:14])=[O:18])[CH2:24]1,[Cl:101][C:1](=[O:2])[C:3]1([c:4]2[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]2)[CH2:11][CH2:12][CH2:13]1.[CH3:14][CH2:15][O:16][C:17](=[O:18])[C@@H:19]1[CH2:20][CH2:21][CH2:22][NH:23][CH2:24]1>>[C:1](=[O:2])([C:3]1([c:4]2[cH:5][cH:6][c:7]([Cl:8])[cH:9][cH:10]2)[CH2:11][CH2:12][CH2:13]1)[N:23]1[CH2:22][CH2:21][CH2:20][C@@H:19]([C:17]([O:16][CH2:15][CH3:14])=[O:18])[CH2:24]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[OH:8][CH2:9][C@@H:10]1[CH2:11][CH2:12][CH2:13][NH:14]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:14]1[C@H:10]([CH2:9][OH:8])[CH2:11][CH2:12][CH2:13]1,CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[OH:8][CH2:9][C@@H:10]1[CH2:11][CH2:12][CH2:13][NH:14]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:14]1[C@H:10]([CH2:9][OH:8])[CH2:11][CH2:12][CH2:13]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(14, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[cH:2][cH:3][c:4]([C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][n:11]1.[OH:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][c:18]([OH:19])[cH:20]1>>[c:1]1([O:19][c:18]2[cH:17][cH:16][cH:15][c:14]([CH2:13][OH:12])[cH:20]2)[cH:2][cH:3][c:4]([C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][n:11]1,[Cl:101][c:1]1[cH:2][cH:3][c:4]([C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][n:11]1.[OH:12][CH2:13][c:14]1[cH:15][cH:16][cH:17][c:18]([OH:19])[cH:20]1.[H-:301].[Na+]>>[c:1]1([O:19][c:18]2[cH:17][cH:16][cH:15][c:14]([CH2:13][OH:12])[cH:20]2)[cH:2][cH:3][c:4]([C:5]([O:6][CH2:7][CH3:8])=[O:9])[cH:10][n:11]1,SNAr_alco(thi)ol(para),"[(301, 19.1), ([19.1, 19], 19), (19, 1), ([1, 11], [11, 10]), ([10, 4], [4, 5]), ([5, 9], 9), (9, [9, 5]), ([5, 4], [4, 10]), ([10, 11], [11, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
